US07423149B2
A mixture of 0.075 g (0.22 mmol) of 3-(4-bromo-phenyl)-N-(4-chloro-phenyl)-acrylamidine, 0.042 g (0.26 mmol) of 5-indoleboronic acid, and 0.013 g (0.011 mmol) of Pd(PPh3)4 in 3 mL of DME/water/ethanol (4/2/1) in a sealed tube was heated under microwave (45 W, 5 min). The reaction was diluted with 10 mL of saturated NaHCO3, and extracted with three 10 mL portions of ethyl acetate. The combined organic extracts were washed with 10 mL of brine, dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC eluting with 60% ethyl acetate in hexanes plus 1% NH4OH to give 0.036 g of N-(4-chloro-phenyl)-3-[4-(1H -indol-5-yl)-phenyl]-acrylamidine. Method M: To a stirred solution of 0.10 g (0.27 mmol) of N-(4-chloro-phenyl)-3-[4-(1H -indol-5-yl)-phenyl]-acrylamidine in 3 mL of DMF was added 0.011 g (0.28 mmol) of 60% NaH at 0° C. After 1 h, 0.018 mL (0.28 mmol) of iodomethane was introduced, the reaction was warmed to room temperature overnight and quenched with 10 mL of saturated NaHCO3. It was extracted with three 10 mL portions of dichloromethane. The combined organic extracts were washed with 10 mL of brine, dried over Na2SO4, filtered and concentrated. The residue was chromatographed eluting with 40% ethyl acetate in hexanes to give 0.028 g of N-(4-chloro-phenyl)-3-[4-(1-methyl-1H-indol-5-yl)-phenyl]-acrylamidine.

reactant | N-(4-chloro-phenyl)-3-[4-(1H -indol-5-yl)-phenyl]-acrylamidine | 0.27 mmol, 0.10 g | ClC1=CC=C(C=C1)NC(C=CC1=CC=C(C=C1)C=1C=C2C=CNC2=CC1)=N | C23H18ClN3
reactant | NaH | 0.28 mmol, 0.011 g | [H-].[Na+]
reactant | iodomethane | 0.28 mmol, 0.018 mL | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-phenyl)-3-[4-(1-methyl-1H-indol-5-yl)-phenyl]-acrylamidine | 0.028 g | ClC1=CC=C(C=C1)NC(C=CC1=CC=C(C=C1)C=1C=C2C=CN(C2=CC1)C)=N | C24H20ClN3
